US07960404B2
Stage 1:1-(8-Pyrrolidin-1-yl-1,4-dioxaspiro[4,5]dec-8-yl)-1H-[1,2,3]triazole
Pyrrolidine (1.95 g, 2.29 ml, 27.5 mmol), 1,2,3-triazole (2.07 g, 30 mmol) and molecular sieve 4 Å (7.14 g) were added to a solution of 1,4-dioxaspiro[4,5]decan-8-one (3.9 g, 25 mmol) in toluene (40 ml). The mixture was stirred for 7 h at 90° C. Then the solution was decanted and immediately reacted further.

reactant | Pyrrolidine | 27.5 mmol, 2.29 ml, 1.95 g | N1CCCC1 | C4H9N
reactant | 1,2,3-triazole | 30 mmol, 2.07 g | N1N=NC=C1 | C2H3N3
reactant | 1,4-dioxaspiro[4,5]decan-8-one | 25 mmol, 3.9 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(8-Pyrrolidin-1-yl-1,4-dioxaspiro[4,5]dec-8-yl)-1H-[1,2,3]triazole | N1(CCCC1)C1(CCC2(OCCO2)CC1)N1N=NC=C1 | C14H22N4O2
